US04226876
2-(2,3-Dimethylphenoxymethyl)-2-imidazoline (8.0 g; 0.0392 moles) was dissolved in dry ether (75 ml) and sufficient dry chloroform (50 ml) and the solution cooled in ice (sufficient chloroform was used to prevent precipitation of the imidazoline on cooling). Methanesulphonyl chloride (4.50 g; 0.0393 moles) was added dropwise to the cold, stirred solution. When the addition was complete pentamethylpiperidine (6.08 g; 0.0392 moles) was added and the reaction mixture heated under reflux until tlc showed that reaction was complete (~3 hrs). The reaction mixture was then concentrated under reduced pressure and the residue extracted with a water/chloroform mixture (1:1; ~100 ml). The chloroform layer was washed with water, dried over magnesium sulphate and evaporated under reduced pressure to give a residue which was recrystallised from isopropanol to give 1-methanesulphonyl-2-(2,3-dimethylphenoxymethyl)-2-imidazoline, m.p. 142°-143° C.

reactant | 2-(2,3-Dimethylphenoxymethyl)-2-imidazoline | 0.0392 moles, 8.0 g | CC1=C(OCC=2NCCN2)C=CC=C1C | C12H16N2O
reactant | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
reactant | Methanesulphonyl chloride | 0.0393 moles, 4.50 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | pentamethylpiperidine | 0.0392 moles, 6.08 g | CC1(C(N(CCC1)C)(C)C)C | C10H21N
solvent | ether | 75 ml | CCOCC | C4H10O
product | 1-methanesulphonyl-2-(2,3-dimethylphenoxymethyl)-2-imidazoline | CS(=O)(=O)N1C(=NCC1)COC1=C(C(=CC=C1)C)C | C13H18N2O3S
